US07825256B2
A solution of 2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethylamine (77 mg, 286 μmol), 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde (47 mg, 286 μmol) and p-toluenesulfonic acid monohydrate (5 mg, 26 μmol) in dioxane (3 mL) was heated at 60° C. for 16 h. Sodium triacetoxyborohydride (180 mg, 860 μmol) was then added. The reaction mixture was stirred at r.t. for 1 h. EtOAc (25 mL) and 1N NaOH (25 mL) were then added. The organic layer was isolated, dried (MgSO4), filtered, and concentrated. Silica gel chromatography (0% to 10% MeOH/DCM) afforded 69 mg (57%) of (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-{2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethyl}-amine. [M+H]+ 421.23; 1H NMR (400 MHz, CDCl3) δ 8.60 (s, 1H), 7.89 (s, 1H), 7.23 (s, 1H), 7.12 (s, 1H), 6.68-6.79 (m, 3H), 4.21 (s, 4H), 3.54 (t, 1H), 3.22 (m, 1H), 2.70-2.82 (m, 2H), 2.20-2.60 (m, 9H), 1.84 (m, 2H), 1.70 (m, 1H).

reactant | 2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethylamine | 286 μmol, 77 mg | N1(C=NC=C1)C1=NC(=CC(=N1)C1N(CCC1)CCN)C | C14H20N6
reactant | 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde | 286 μmol, 47 mg | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | p-toluenesulfonic acid monohydrate | 26 μmol, 5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Sodium triacetoxyborohydride | 860 μmol, 180 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N, 25 mL | [OH-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | (2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-{2-[2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-pyrrolidin-1-yl]-ethyl}-amine | 69 mg, 57% | O1CCOC2=C1C=CC(=C2)CNCCN2C(CCC2)C2=NC(=NC(=C2)C)N2C=NC=C2 | C23H28N6O2
